US04332820
In a 250 ml single-neck flask equipped with a magnetic stirrer and a reflux condenser fitted with a nitrogen bubbler were placed 9.13 g (0.05 moles) of 2-chloro-5-nitrobenzonitrile, 7.01 g (0.0515 moles) of 4-hydroxyacetophenone, 7.10 g (0.0515 moles) of anhydrous K2CO3, and 75 ml of acetonitrile. The mixture was heated to reflux and held there for 3 hrs. The reaction mixture was then cooled to room temperature and diluted with 150 ml of water. The product separated as a solid. The solid was filtered off, washed thoroughly with water, and air-dried. The air-dried solid was recrystallized twice from 300 ml of absolute ethanol to give 4.95 g (35% yield) of purified 2-(4-acetylphenoxy)-5-nitrobenzonitrile, mp 135°-136.5° C.

reactant | 2-chloro-5-nitrobenzonitrile | 0.05 moles, 9.13 g | ClC1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C7H3ClN2O2
reactant | 4-hydroxyacetophenone | 0.0515 moles, 7.01 g | CC(=O)C=1C=CC(=CC1)O | C8H8O2
reactant | K2CO3 | 0.0515 moles, 7.10 g | C(=O)([O-])[O-].[K+].[K+]
reactant | acetonitrile | 75 ml | C(C)#N | C2H3N
solvent | water | 150 ml | O | H2O
product | 2-(4-acetylphenoxy)-5-nitrobenzonitrile | 4.95 g, 35% yield | C(C)(=O)C1=CC=C(OC2=C(C#N)C=C(C=C2)[N+](=O)[O-])C=C1 | C15H10N2O4
